US04595521
A solution, cooled to -20° C., of 398 g of tetrabromomethane in 1 l of methylene chloride was treated dropwise under nitrogen gasification within 30 minutes with a solution of 629.6 g of triphenylphosphine in 1 l of methylene chloride. The mixture was subsequently stirred at -10° C. for a further 30 minutes, then treated dropwise within 30 minutes with a solution of 101 g of trans-4-butylcyclohexanecarboxaldehyde in 500 ml of methylene chloride and stirred at -5° C. for a further 2 hours. The mixture was poured into 4 l of hexane, the resulting mixture was stirred at -20° C. for 1 hour and then the precipitate was filtered off under suction and rinsed well with 1 l of cold (-20° C.) hexane. The filtrate was concentrated to a volume of about 1 l on a rotary evaporator, diluted with 2 l of hexane, again concentrated to a volume of about 1 l and stirred at -20° C. for a further 30 minutes. The precipitate was filtered off under suction and rinsed well with 700 ml of cold (-20° C.) hexane. The filtrate was freed from solvent on a rotary evaporator and the resulting yellow oil (195 g) was filtered chromatographically on silica gel with about 3 l of hexane. The eluate was evaporated up to constant weight on a rotary evaporator, there being obtained 171.3 g (88.1%) of trans-1-(2,2-dibromovinyl)-4-butylcyclohexane as a colourless liquid; Rf-value (hexane) 0.55.

reactant | tetrabromomethane | 398 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 629.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trans-4-butylcyclohexanecarboxaldehyde | 101 g | C(CCC)[C@@H]1CC[C@H](CC1)C=O | C11H20O
reactant | hexane | 4 l | CCCCCC | C6H14
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | trans-1-(2,2-dibromovinyl)-4-butylcyclohexane | 171.3 g, 88.1% | BrC(=C[C@@H]1CC[C@H](CC1)CCCC)Br | C12H20Br2
